US08603975B2
To a stirring suspension of lithium aluminum hydride (8.49 g) in THF (500 ml) was added diethyl 4-benzyl-3-oxomorpholine-2,2-dicarboxylate (25 g) under ice-cooled bath, and the mixture was stirred for 1 hour at room temperature. Then the whole was warmed up to 65° C. (inner temperature), and the mixture was stirred for 2 hours. The whole was cooled with ice-cooled bath, and water (8.5 ml) was added dropwise to the mixture. The whole was stirred for 15 minutes. 4 N NaOH (8.5 ml) was added to the mixture, and the whole was stirred for 15 minutes. Then water (25.5 ml) was added again to the mixture and the whole was stirred for 1 hour at room temperature. The white precipitate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was dissolved in diisopropyl ether, and tritulated to yield white solid, which was collected by filteration to give (4-benzylmorpholine-2,2-diyl)dimethanol (10.3 g).

reactant | lithium aluminum hydride | 8.49 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl 4-benzyl-3-oxomorpholine-2,2-dicarboxylate | 25 g | C(C1=CC=CC=C1)N1C(C(OCC1)(C(=O)OCC)C(=O)OCC)=O | C17H21NO6
reactant | water | 8.5 ml | O | H2O
reactant | NaOH | 4 N, 8.5 ml | [OH-].[Na+]
reactant | water | 25.5 ml | O | H2O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | (4-benzylmorpholine-2,2-diyl)dimethanol | 10.3 g | C(C1=CC=CC=C1)N1CC(OCC1)(CO)CO | C13H19NO3
